US09108936B2
To a stirred solution of 4-methyl-benzenesulfonic acid [(2S)-2-hydroxy-3,3-dimethyl-butyl]ester (4.2 g, 14.4 mmol) in dimethylsulfoxide (30 ml) is added sodium cyanide (3.6 g, 71.9 mmol) and the reaction mixture is heated at 60° C. for 16 h. The reaction mixture is poured onto water (100 ml) and extracted with ethyl acetate (3×30 ml). The combined organic layers are washed with water (3×50 ml), dried over sodium sulfate and evaporated to dryness affording (3R)-3-hydroxy-4,4-dimethyl-pentanenitrile, which is used in next step without further purification (1.3 g, 10.2 mmol, 71%).

reactant | 4-methyl-benzenesulfonic acid [(2S)-2-hydroxy-3,3-dimethyl-butyl]ester | 14.4 mmol, 4.2 g | O[C@H](COS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C13H20O4S
reactant | sodium cyanide | 71.9 mmol, 3.6 g | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | (3R)-3-hydroxy-4,4-dimethyl-pentanenitrile | O[C@H](CC#N)C(C)(C)C | C7H13NO
